US06465493B1
Preparation 7: N-(2-Benzo[1,3]dioxol-5-yl-2-oxo-1-pyridin-2-yl-ethyl)4-cyano-benzamide
2-Amino-1-benzo[1,3]dioxol-5-yl-2-pyridin-2-yl-ethanone dihydrochloride (1 g, 3 mmol) was added to a stirring solution of 4-cyano-benzoyl chloride (0.459 g, 3 mmol) in dichloromethane (10 ml). Triethylamine (2 ml, 14 mmol) was added dropwise and the reaction was stirred at ambient temperature for 18 hours. Water was (50 ml) added the organics were extracted into dichloromethane. Chromatographic purification using a dichloromethane solution of ammonia in methanol (0.5% c. ammonia: 4.5% methanol: 95% dichloromethane) yielded the title compound as a pale yellow oil (0.9 g, 76%); m/z (API) 386 (M+H+, 100%).

reactant | 2-Amino-1-benzo[1,3]dioxol-5-yl-2-pyridin-2-yl-ethanone dihydrochloride | 3 mmol, 1 g | Cl.Cl.NC(C(=O)C1=CC2=C(OCO2)C=C1)C1=NC=CC=C1
reactant | 4-cyano-benzoyl chloride | 3 mmol, 0.459 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | Triethylamine | 14 mmol, 2 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(2-Benzo[1,3]dioxol-5-yl-2-oxo-1-pyridin-2-yl-ethyl)4-cyano-benzamide | 0.9 g, 76% | O1COC2=C1C=CC(=C2)C(C(C2=NC=CC=C2)NC(C2=CC=C(C=C2)C#N)=O)=O | C22H15N3O4
